US07176227B2
Synthesis of 2-benzylisoindole-1,3-dione
Benzylamine (manufactured by Tokyo Kasei Kogyo Co., Ltd.) (1.00 g) was dissolved in purified water (20 ml) and then added with N-carbethoxyphthalimide (manufactured by Tokyo Kasei Kogyo Co., Ltd.) (3.06 g) and sodium carbonate (2.47 g), followed by stirring at room temperature for 3 hours. After completion of the reaction, the solution was filtered and the residue was washed with purified water and then dried under vacuum at 60° C., thereby obtaining the subject compound (1.82 g) as a white solid.

reactant | Benzylamine | 1.00 g | C(C1=CC=CC=C1)N | C7H9N
reactant | N-carbethoxyphthalimide | 3.06 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | sodium carbonate | 2.47 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 ml | O | H2O
product | 2-benzylisoindole-1,3-dione | 1.82 g | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C15H11NO2
